US07544812B2
3-(4-{2-[1-(4-Isopropyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid
To a cooled (0° C.) suspension of NaH (24 mg, 0.60 mmol, 60% w/w in mineral oil) in DMF (1 ml) is added a solution of 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester (128 mg, 0.30 mmol) in DMF (1.5 ml). After 5 minutes, the reaction mixture is removed from the cooling bath and stirred while warming to ambient temperature over 45 minutes. After the solution is cooled again to 0° C., 4-isopropylbenzyl chloride (126 mg, 0.75 mmol) is added in a single portion, the cooling bath removed, and the mixture stirred for 50 minutes. The reaction mixture is quenched with 1N HCl and extracted with ethyl acetate (2×). The organic extracts were washed with water, brine, dried (Na2SO4), and concentrated to an oil. The crude product is dissolved in ethanol (4 ml), treated with 5N NaOH (1.5 ml), and stirred for 24 hours at ambient temperature. The mixture is poured into 1N HCl, then extracted with ethyl acetate (2×20 ml). The combined ethyl acetate extracts were washed with water, brine, dried (Na2SO4), and concentrated to an oil which is purified by MS/LC to provide a foam (110 mg, 69%).

reactant | NaH | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 0.30 mmol, 128 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | 4-isopropylbenzyl chloride | 0.75 mmol, 126 mg | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 3-(4-{2-[1-(4-Isopropyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid | 110 mg, 69% | C(C)(C)C1=CC=C(CN2C(N(C(C2)CCOC2=CC=C(C=C2)CC(C(=O)O)(OC2=CC=CC=C2)C)C)=O)C=C1 | C32H38N2O5
